US06511995B1
Synthesis of 3,4-dichloro-N1-{6-[(1-hydroxy-2,3-dihydro-1H-inden-4-yl)oxy]-3-pyridinyl}benzamide
After 413 mg of 3,4-dichloro-N1-{6-[(1-oxo-2,3-dihydro-1H-inden-4-yl)oxy]-3-pyridinyl}benzamide was dissolved in a mixed solvent of 4 ml of tetrahydrofuran and 1 ml of water, 23 mg of sodium tetrahydroborate was added and the mixture was stirred at room temperature. After 4 hours, acetone was added to the reaction solution to decompose excess sodium tetrahydroborate. Then, water was added and the solution was extracted with ethyl acetate. The organic (ethyl acetate) layer was washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. To the resulting oily substance, diethyl ether was added and the deposited crystal was isolated by filtration to obtain 289 mg of the titled compound.

reactant | 3,4-dichloro-N1-{6-[(1-oxo-2,3-dihydro-1H-inden-4-yl)oxy]-3-pyridinyl}benzamide | 413 mg | ClC=1C=C(C(=O)NC=2C=NC(=CC2)OC2=C3CCC(C3=CC=C2)=O)C=CC1Cl | C21H14Cl2N2O3
reactant | sodium tetrahydroborate | 23 mg | [BH4-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 3,4-dichloro-N1-{6-[(1-hydroxy-2,3-dihydro-1H-inden-4-yl)oxy]-3-pyridinyl}benzamide | 289 mg | ClC=1C=C(C(=O)NC=2C=NC(=CC2)OC2=C3CCC(C3=CC=C2)O)C=CC1Cl | C21H16Cl2N2O3
